US04220647
N-benzyloxycarbonyl-m-fluoroanilinoacetaldehyde diethyl acetal (15 g) and 3,4-dihydroxyphenethylamine hydrochloride (5.75 g) were added to a mixture of n-butyl alcohol (150 ml) and water (20 ml) and then the mixture was refluxed for 11 hours in a stream of nitrogen. The reaction mixture was concentrated to dryness and the residue was in turn washed with ether and with a mixture of ether: ethyl acetate (2:1) and then crystallized with acetone. The crystals were collected by filtration to give 1-(N-benzyloxycarbonyl-m-fluoroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (11.27 g), mp 184° to 186° C. (dec).

reactant | N-benzyloxycarbonyl-m-fluoroanilinoacetaldehyde diethyl acetal | 15 g | C(C)OC(CN(C1=CC(=CC=C1)F)C(=O)OCC1=CC=CC=C1)OCC | C20H24FNO4
reactant | 3,4-dihydroxyphenethylamine hydrochloride | 5.75 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | n-butyl alcohol | 150 ml | C(CCC)O | C4H10O
solvent | water | 20 ml | O | H2O
product | 1-(N-benzyloxycarbonyl-m-fluoroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 11.27 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C1=CC(=CC=C1)F)CC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C24H23FN2O4.ClH/c25-18-7-4-8-19(12-18)27(24(30)31-15-16-5-2-1-3-6-16)14-21-20-13-23(29)22(28)11-17(20)9-10-26-21;/h1-8,11-13,21,26,28-29H,9-10,14-15H2;1H
